US06310056B1
b) (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(6-methylimidazo[5,1-b]thiazolium-2-yl)-1-carbapen-2-em-3-carboxylate (inner salt)
To a solution of 58 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(6-methylimidazo[5,1-b]thiazolium-2-yl)-1-carbapen-2-em-3-carboxylate iodide in 2 ml of THF and 2 ml of 1/15 M phosphate buffer (pH 6.8) was added 68 mg of 10% Pd-C. The reactor was purged with hydrogen, and the reaction mixture was stirred at room temperature for 4 hours. The catalyst was collected by filtration on Celite, and washed with water. The filtrate was washed with ethyl acetate, the aqueous layer was purified by column chromatography on DIAION HP-20 to give 5.4 mg of the title compound.

reactant | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(6-methylimidazo[5,1-b]thiazolium-2-yl)-1-carbapen-2-em-3-carboxylate iodide | 58 mg | [I-].O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=C[N+]=3C(S2)=CN(C3)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O
reactant | phosphate | 15 M, pH 6.8 | P(=O)([O-])([O-])[O-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 68 mg | [Pd] | Pd
product | (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(6-methylimidazo[5,1-b]thiazolium-2-yl)-1-carbapen-2-em-3-carboxylate | 5.4 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=C[N+]=3C(S2)=CN(C3)C)C(=O)[O-])C1=O | C15H15N3O4S
